US09388189B2
(S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (90 mg, 0.12 mmol) was treated with trifluoroacetic acid (2 ml, 25 mmol) and a solution of ammonia (7N in methanol, 2 ml, 91 mmol) according to the method described in Example 27. The residue was purified by reverse phase using SP1® Purification System to obtain 19 mg (25% yield) of the title compound. Purity 98%.

reactant | (S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.12 mmol, 90 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=CC=C1)S(=O)(=O)N1CCOCC1)COCC[Si](C)(C)C | C37H44N8O5SSi
reactant | trifluoroacetic acid | 25 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 91 mmol, 7N, 2 ml | N | H3N
product | (S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 19 mg, 25% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=CC(=CC=C1)S(=O)(=O)N1CCOCC1 | C31H30N8O4S
